US05219862
2-methyl-6-n-propyl-8beta-ergoline-carboxylic acid methyl ester
As described at the beginning, the noncrystalline compound can be prepared from 6-cyano-2-methyl-8beta-ergoline-carboxylic acid methyl ester by reduction and alkylation with n-propyliodide in a 54% yield.

reactant | 6-cyano-2-methyl-8beta-ergoline-carboxylic acid methyl ester | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)C#N | C18H19N3O2
reactant | n-propyliodide | C(CC)I | C3H7I
product | 2-methyl-6-n-propyl-8beta-ergoline-carboxylic acid methyl ester | 54% yield | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)CCC | C20H26N2O2
